* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\OPAMPTBJ\OPAMPTBJ02D.asc
V1 Vpp 0 {Vs}
V2 0 Vnn {Vs}
RL o 0 {RL}
Vi i 0 {Vi}
XU1 0 neg Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 i neg {R1}
D2 o neg D2
.model D D
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.dio
.op
.param Vs=2.500e+01 Vi=-2.000e+00 R1=1.200e+03 RL=1.500e+04
.model D2 D(IS=1.700e-14 N=1.100e+00)
.lib UniversalOpAmp2.lib
.backanno
.end
